US07425631B2
Step C. Preparation of (6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-amine.
TFA (0.7 mL, 9.07 mmol) was added dropwise to a solution of (6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-carbamic acid tert-butyl ester (620 mg, 2.27 mmol) in CH2Cl2 (10 mL). After stirring at RT for 4 h, the mixture was evaporated to dryness. Et3N (1 mL) was added to the residue and evaporated again to give the crude which was directly used in the next step.

reactant | TFA | 9.07 mmol, 0.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-carbamic acid tert-butyl ester | 2.27 mmol, 620 mg | C(C)(C)(C)OC(N[C@H]1CC2=CC=C(C=C2CC1)C=C)=O | C17H23NO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-amine | C(=C)C=1C=C2CC[C@H](CC2=CC1)N | C12H15N
